US05002966
6-(2-Furyl)-5-hexenol
6-(2-Furyl)-5-hexenoic acid (3.6 g) in ether (25 ml) was reduced according to the method of Intermediate 15, except that the reaction time was 1.5 h, and there was no purification by FCC. The title compound was obtained as a pale yellow oil (2.89 g), t.l.c. (hexane-ether 1:1) Rf 0.17.

reactant | 6-(2-Furyl)-5-hexenoic acid | 3.6 g | O1C(=CC=C1)C=CCCCC(=O)O | C10H12O3
solvent | ether | 25 ml | CCOCC | C4H10O
product | 6-(2-Furyl)-5-hexenol | O1C(=CC=C1)C=CCCCCO | C10H14O2
